US06825202B2
Trifluoroacetic anhydride (23.07 g; 0.11 mol) was added dropwise under nitrogen atmosphere to an ice-cooled solution of 1-(2-methoxyphenyl)piperazine (19.2 g; 0.1 mol) and pyridine (8.85 g; 0.11 mol) in dichloromethane (300 mL). After 1 h at ambient temperature a 10% aqueous HCl solution was added. The layers were separated and the organic phase was washed with water (2×100 mL), dried (Na2SO4) and concentrated to give 2,2,2-trifluoro-1-[4-(2-methoxy-phenyl)-piperazin-1-yl]-ethanone as a light red oil (28 g) which was used in Step 2 without purification.

reactant | Trifluoroacetic anhydride | 0.11 mol, 23.07 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-(2-methoxyphenyl)piperazine | 0.1 mol, 19.2 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | pyridine | 0.11 mol, 8.85 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-1-[4-(2-methoxy-phenyl)-piperazin-1-yl]-ethanone | 28 g | FC(C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)(F)F | C13H15F3N2O2
